US05760032
Benzyl 5-fluoroindole-2-carboxylate (9.4 g) was dissolved in DMF (94 ml). Potassium carbonate (9.7 g) and bromoethyl acetate (4.0 ml) were added and the mixture was stirred for 5 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from isopropyl alcohol to give 9.59 g of benzyl 1-ethoxycarbonylmethyl-5-fluoroindole-2-carboxylate.

reactant | Benzyl 5-fluoroindole-2-carboxylate | 9.4 g | FC=1C=C2C=C(NC2=CC1)C(=O)OCC1=CC=CC=C1 | C16H12FNO2
reactant | Potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethyl acetate | 4.0 ml | C(C)(=O)OCCBr | C4H7BrO2
solvent | DMF | 94 ml | CN(C)C=O | C3H7NO
product | benzyl 1-ethoxycarbonylmethyl-5-fluoroindole-2-carboxylate | 9.59 g | C(C)OC(=O)CN1C(=CC2=CC(=CC=C12)F)C(=O)OCC1=CC=CC=C1 | C20H18FNO4
